US07199117B2
2-(4-alpha-Methylbenzylaminopropoxyphenyl)-8-methylimidazo[1,2-a]pyridine
This compound was prepared according to the procedure described in Example 1 of U.S. Pat. No. 4,727,145. using 2-(4-chloropropoxyphenyl)-8-methylimidazo[1,2-a]pyridine and alpha-methylbenzylamine instead of 2-(4-chloropropoxyphenyl)-imidazo[1,2-a]pyridine and dibutylamine respectively. Analysis: Calc'd for C25H27N3O 3HCl; C, 6.11; H, 60.8; N, 8.49. Found: C, 6.51; H, 60.43; N, 8.36.

reactant | 2-(4-chloropropoxyphenyl)-8-methylimidazo[1,2-a]pyridine | ClCCCOC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C17H17ClN2O
reactant | alpha-methylbenzylamine | CC(C1=CC=CC=C1)N | C8H11N
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
product | 2-(4-alpha-Methylbenzylaminopropoxyphenyl)-8-methylimidazo[1,2-a]pyridine | CC(C1=CC=CC=C1)NCCCOC1=CC=C(C=C1)C=1N=C2N(C=CC=C2C)C1 | C25H27N3O
